US04406897
Ethyl isonicotinimidate
A solution of 4-cyanopyridine (135 g) and ethanol (83.3 ml) in chloroform (1000 ml) is cooled in an ice bath for 30 min. Anhydrous HCl (143 g) is bubbled into the cold mixture over a period of 7 hours with stirring continued overnight with cooling. The reaction mixture is filtered and the filtered solid added portionwise to an ice cold 10% K2CO3 solution (500 g in 5 l H2O) with stirring. A liter of ether is added to the mixture after 20 min with stirring. The aqueous layer is extracted with ether and the organic extracts combined and dried overnight. The dried solution is filtered, evaporated in vacuo and vacuum distilled giving as a main fraction 75.5 g of a colorless liquid, b.p. 63°-65° C. (0.14 mm).

reactant | 4-cyanopyridine | 135 g | C(#N)C1=CC=NC=C1 | C6H4N2
reactant | ethanol | 83.3 ml | C(C)O | C2H6O
solvent | chloroform | 1000 ml | C(Cl)(Cl)Cl | CHCl3
product | Ethyl isonicotinimidate | 75.5 g | C(C1=CC=NC=C1)(OCC)=N | C8H10N2O
